US09102591B2
(−)-2-Chloro-N-[2-(2-methylpyrimidin-5-yl)-3-[1-(trifluoromethyl)cyclopropyl]propyl]benzamide
The racemic mixture which was prepared in a similar manner to example 3a from 2-chlorobenzoic acid and 2-(2-methyl-pyrimidin-5-yl)-3-(1-trifluoromethyl-cycl opropyl)-propylamine was separated into the two enantiomers by preparative SFC to yield the title compound. LCMS (MH+): m/z=398.1, tR (minutes, Method F)=2.55. [α]D20=−25.5 (c=5.1 mg/mL,CHCl3)

reactant | 2-chlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | 2-(2-methyl-pyrimidin-5-yl)-3-(1-trifluoromethyl-cycl opropyl)-propylamine | CC1=NC=C(C=N1)C(CN)CC1(CC1)C(F)(F)F | C12H16F3N3
product | (−)-2-Chloro-N-[2-(2-methylpyrimidin-5-yl)-3-[1-(trifluoromethyl)cyclopropyl]propyl]benzamide | ClC1=C(C(=O)NCC(CC2(CC2)C(F)(F)F)C=2C=NC(=NC2)C)C=CC=C1 | C19H19ClF3N3O
